US08110585B2
(5-chloro-2-methyl-2H-indazol-4-yl)methanol
To a solution of methyl 5-chloro-2-methyl-2H-indazole-4-carboxylate (3.00 g, 13.4 mmol) in tetrahydrofuran (129 mL) was slowly added a solution (1 M, 40.1 mL, 40.1 mmol) of diisobutylaluminum hydride in hexane at −78° C., and the mixture was stirred at room temperature for 3 hr. Water was added to the reaction mixture at 0° C., and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/hexane=1/2) to give the title compound (2.63 g, yield 99%).

reactant | methyl 5-chloro-2-methyl-2H-indazole-4-carboxylate | 13.4 mmol, 3.00 g | ClC1=C(C2=CN(N=C2C=C1)C)C(=O)OC | C10H9ClN2O2
reactant | diisobutylaluminum hydride | 40.1 mmol, 1 M, 40.1 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | O | H2O
solvent | tetrahydrofuran | 129 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (5-chloro-2-methyl-2H-indazol-4-yl)methanol | 2.63 g, yield 99% | ClC1=C(C2=CN(N=C2C=C1)C)CO | C9H9ClN2O
